US07470679B2
(R)-3-(2-(acetoxymethyl)-4-amino-5-chloro-3-methylphenyl)-1-methoxy-1-oxopropan-2-yl benzoate (16.33 g, 38.9 mmol) in toluene (100.0 ml, 939 mmol) was added acetic acid (5.0 ml, 87 mmol) followed by isoamyl nitrite (5.76 ml, 42.8 mmol) at 0° C. After 15 min, potassium acetate (7.64 g, 78 mmol) was added and the reaction mixture was stirred for 12 h. The solvent was removed and the crude product was dissolved in dichloromethane (250 mL) and washed with aqueous NaHCO3. The solvent was dried (Na2SO4), evaporated and the crude product was purified by flash chromatography using 40% EtOAc in hexane to give (R)-3-(4-(acetoxymethyl)-7-chloro-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate in 88% yield. MS (ESI) 453 (M+Na); Rf=2.46.

reactant | (R)-3-(2-(acetoxymethyl)-4-amino-5-chloro-3-methylphenyl)-1-methoxy-1-oxopropan-2-yl benzoate | 38.9 mmol, 16.33 g | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC1=C(C(=C(C(=C1)Cl)N)C)COC(C)=O | C21H22ClNO6
reactant | toluene | 939 mmol, 100.0 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetic acid | 87 mmol, 5.0 ml | C(C)(=O)O | C2H4O2
reactant | isoamyl nitrite | 42.8 mmol, 5.76 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | potassium acetate | 78 mmol, 7.64 g | C(C)(=O)[O-].[K+]
product | (R)-3-(4-(acetoxymethyl)-7-chloro-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate | 88% yield | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC=1C(=C2C=NNC2=C(C1)Cl)COC(C)=O | C21H19ClN2O6
